US04859700
2-(5-Fluoro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)-1-[4-(3,4-methylenedioxybenzyl)piperazinyl]-1-oxoethane hydrochloride
This compound was prepared according to the process described in Example 9, starting with 2-(5-fluoro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl chloride and 4-(3,4-methyenedioxybenzyl)piperazine.

reactant | 2-(5-fluoro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)acetyl chloride | FC=1C=CC2=C(C(C(O2)=O)(C2=CC=CC=C2)CC(=O)Cl)C1 | C16H10ClFO3
reactant | 4-(3,4-methyenedioxybenzyl)piperazine | C1OC=2C=C(CN3CCNCC3)C=CC2O1 | C12H16N2O2
product | 2-(5-Fluoro-2,3-dihydro-2-oxo-3-phenyl-3-benzofuranyl)-1-[4-(3,4-methylenedioxybenzyl)piperazinyl]-1-oxoethane hydrochloride | Cl.FC=1C=CC2=C(C(C(O2)=O)(C2=CC=CC=C2)CC(=O)N2CCN(CC2)CC2=CC3=C(C=C2)OCO3)C1 | InChI=1S/C28H25FN2O5.ClH/c29-21-7-9-23-22(15-21)28(27(33)36-23,20-4-2-1-3-5-20)16-26(32)31-12-10-30(11-13-31)17-19-6-8-24-25(14-19)35-18-34-24;/h1-9,14-15H,10-13,16-18H2;1H
